US05064819
A material of 283 mg of 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-propionaldehyde, 150 mg of ethyl n-butyl-phosphinate and 101 mg of triethylamine is heated to 100° C. for 21/2 hours. The mixture is cooled to room temperature and the volatile components are removed in high vacuum. Chromatography of the residue on silica-gel affords ethyl 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-1-hydroxy-propyl-(n-butyl)phosphinate.

reactant | 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-propionaldehyde | 283 mg | C(C)(C)(C)OC(=O)NCC(C=O)C1=CC=C(C=C1)Cl | C14H18ClNO3
reactant | ethyl n-butyl-phosphinate | 150 mg | C(CCC)P(OCC)=O | C6H15O2P
solvent | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
product | ethyl 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-1-hydroxy-propyl-(n-butyl)phosphinate | C(C)(C)(C)OC(=O)NCC(C(O)P(OCC)(=O)CCCC)C1=CC=C(C=C1)Cl | C20H33ClNO5P
